US08124641B2
To a stirred solution of (4-oxo-4,5,6,7-tetrahydro-indazol-1-yl)-acetic acid ethyl ester (16.7 g, 75.0 mmol) in formic acid-triethylamine azeotropes (molar fraction of triethylamine: 0.2857, 45 mL) was added chloro-[(1S,2S)—N-(p-toluenesulfonyl)-1,2-diphenylethanediamine](mesitylene)ruthenium(II) (1.86 g, 3.0 mmol). The reaction mixture was stirred at room temperature for 3 hours and then at 45° C. for 2.5 hours with occasional venting. After cooling to room temperature, 1N hydrochloric acid (50 mL) was added, followed by extraction with ethyl acetate (200 mL×3). The separated organic layers were combined, washed with brine (300 mL), dried over sodium sulfate, filtered and concentrated in vacuo. The residue was purified by column chromatography (gradient elution, 0-4% methanol in dichloromethane) to afford ((S)-4-hydroxy-4,5,6,7-tetrahydro-indazol-1-yl)-acetic acid ethyl ester (14.3 g, 85%) as a white solid with enantiomeric purity ≧99% as determined by Chiralpak™ IA column (condition: gradient: 50% hexane in ethanol, flow rate: 15 mL/min and retention time: 5.8 min for enantiomer A and 8.1 min for enantiomer B). 1H NMR (400 MHz, CD3OD) δ ppm 7.47 (s, 1 H), 4.89 (d, 4 H), 4.76 (d, 1 H), 4.20 (q, J=7.2 Hz, 2 H), 2.52 (m, 2 H), 2.06-1.84 (m, 4 H), 1.29 (t, J=7.2 Hz, 3 H). MS calcd. for C11H16N2O3 224, obsd. (ESI+) [(M+H)+] 225.

reactant | (4-oxo-4,5,6,7-tetrahydro-indazol-1-yl)-acetic acid ethyl ester | 75.0 mmol, 16.7 g | C(C)OC(CN1N=CC=2C(CCCC12)=O)=O | C11H14N2O3
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | 1N, 50 mL | Cl | ClH
solvent | formic acid-triethylamine | C(C)N(CC)CC.C(=O)O
product | ((S)-4-hydroxy-4,5,6,7-tetrahydro-indazol-1-yl)-acetic acid ethyl ester | 14.3 g, 85% | C(C)OC(CN1N=CC=2[C@H](CCCC12)O)=O | C11H16N2O3
